US07732463B2
1-tert-Butoxycarbonyl-4-[2-(3-fluoro-phenylsulfanyl)-5-fluoro-phenyl]-piperidine-4-ol (intermediate for 2a2).
Prepared from 4-hydroxy-4-(2-mercapto-5-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester and 1-fluoro-3-iodo-benzene.

reactant | 4-hydroxy-4-(2-mercapto-5-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=CC(=C1)F)S)O | C16H22FNO3S
reactant | 1-fluoro-3-iodo-benzene | FC1=CC(=CC=C1)I | C6H4FI
product | 1-tert-Butoxycarbonyl-4-[2-(3-fluoro-phenylsulfanyl)-5-fluoro-phenyl]-piperidine-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)SC1=CC(=CC=C1)F | C22H25F2NO3S
